US04607034
Synthesis of 2-(4-cyclohexylthiocarbamoyl-piperazin-1-yl)-4-amino-6,7-dimethoxyquinazoline (Compound No. 9)
To a solution prepared by dissolving 868 mg. (3 mmole) of 2-piperazine-4-amino-6,7-dimethoxyquinazoline in 30 ml of dioxane, there was added dropwise 424 mg. (13 mmole) of cyclopentyl isothiocyanate at room temperature. The mixture was stirred overnight at room temperature. After evaporation of the solvent from the reaction mixture, the residue was chromatographed on silica gel, and eluted with 2% ethanol-chloroform to obtain 1.26 g. of the desired product. The product was dissolved in 10 ml of iso-propanol and 2 ml of 2N hydrochloric acid was added to the resultant solution to form a hydrochloride, which was in turn isolated.

reactant | 2-piperazine-4-amino-6,7-dimethoxyquinazoline | 3 mmole | COC1=C(C=C2C(=C1)C(=NC(=N2)N3CCNCC3)N)OC | C14H19N5O2
reactant | cyclopentyl isothiocyanate | 13 mmole | C1(CCCC1)N=C=S | C6H9NS
reactant | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 2-(4-cyclohexylthiocarbamoyl-piperazin-1-yl)-4-amino-6,7-dimethoxyquinazoline | C1(CCCCC1)NC(=S)N1CCN(CC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C21H30N6O2S
